US08334301B2
N-(3-formyl-1-phenyl-1H-pyrazol-5-yl)benzenesulfonamide
N-[3-(Hydroxymethyl)-1-phenyl-1H-pyrazol-5-yl]benzenesulfonamide (379 mg) and triethylamine (1 mL) were dissolved in dimethyl sulfoxide (5 mL), and sulfur trioxide•pyridine complex (549 mg) was added at room temperature. After stirring at room temperature for 18 hr, 1 mol/L hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The aqueous layer was extracted again with ethyl acetate, and the combined extracts were washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=1:1→1:3) to give the title compound as a pale-yellow oil (yield 331 mg, yield 88%).

reactant | N-[3-(Hydroxymethyl)-1-phenyl-1H-pyrazol-5-yl]benzenesulfonamide | 379 mg | OCC1=NN(C(=C1)NS(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C16H15N3O3S
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | N-(3-formyl-1-phenyl-1H-pyrazol-5-yl)benzenesulfonamide | yield 331 mg, yield 88% | C(=O)C1=NN(C(=C1)NS(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C16H13N3O3S
